US05767116
A suspension of 4-carbamoyl-1-(3-methoxyphenyl)-pyridinium chloride (26 g) in methanol (300 ml) was hydrogenated at ambient temperature and pressure in the presence of 10% palladium-on-carbon catalyst (2.0 g) until hydrogen uptake ceased (~2 days) The mixture was filtered, excess triethylamine added and the solvent removed in vacuo to give a pink solid. This was partitioned between water and chloroform. The organic phase was dried and the solvent removed in vacuo to give 1-(3-methoxyphenyl)piperidine-4-carboxamide as a pink solid (19 g), m.p. 153°-156° C.

reactant | 4-carbamoyl-1-(3-methoxyphenyl)-pyridinium chloride | 26 g | [Cl-].C(N)(=O)C1=CC=[N+](C=C1)C1=CC(=CC=C1)OC
reactant | hydrogen | [H][H] | H2
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium-on-carbon | 2.0 g | [Pd] | Pd
product | 1-(3-methoxyphenyl)piperidine-4-carboxamide | 19 g | COC=1C=C(C=CC1)N1CCC(CC1)C(=O)N | C13H18N2O2
